US07205408B2
(a) 5-Fluoro-2-picoline N-oxide
Preparation of 5-fluoro-2-picoline was based on E. J. Blanz, F. A. French, J. R. DoAmaral and D. A. French, J. Med. Chem. 1970, 13, 1124–1130. 5-Amino-2-picoline (12.5 g) in ethanol (105 ml) and 50% fluoroboric acid (44.5 ml) was stirred at −5° C. and treated dropwise over 45 mins. with n-butyl nitrite (31.25 ml). The solution was maintained at this temp. for 3 hours, treated with ether (100 ml, precooled to −20° C.) and the solid filtered off, quickly transferred to a flask and covered with hexane (precooled to −20° C.). After allowing to warm to approx. 20° C. and standing for 3 days the hexane was decanted and 2M NaOH solution added until basic (pH10). The mixture was filtered and the filtrate extracted with dichloromethane (10×200 ml). The organic solution was dried, evaporated to 200 ml and treated with m-chloroperbenzoic acid (26.5 g). After stirring 16 hours the solution was washed with excess aqueous sodium bicarbonate and the aqueous re-extracted with dichloromethane (10×200 ml). The organic fraction was dried and evaporated and the residue chromatographed (15% EtOH/EtOAc) to give the product (5.5 g).

reactant | 5-fluoro-2-picoline | FC=1C=CC(=NC1)C | C6H6FN
reactant | 5-Amino-2-picoline | 12.5 g | NC=1C=CC(=NC1)C | C6H8N2
reactant | n-butyl nitrite | 31.25 ml | N(=O)OCCCC | C4H9NO2
reactant | ether | 100 ml | CCOCC | C4H10O
solvent | ethanol | 105 ml | C(C)O | C2H6O
solvent | fluoroboric acid | 44.5 ml | F[B-](F)(F)F.[H+]
product | 5-Fluoro-2-picoline N-oxide | 5.5 g | FC1=CC=C([N+](=C1)[O-])C | C6H6FNO
